US04246268
3.47 g (12.7 mmoles) of (6-chloro-2-naphthyl) 4-piperidyl ketone hydrochloride is suspended in 200 ml of absolute ethanol and 1.5 g (4 mmoles) of sodium borohydride added. The reaction mixture is stirred for 18 hours and concentrated in vacuo. The residue is triturated with water and aqueous sodium hydroxide added to produce a basic solution which is extracted with toluene/methylene chloride. The organic phase is washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to yield α-(6-chloro-2-naphthyl)-4-piperidinemethanol.

reactant | (6-chloro-2-naphthyl) 4-piperidyl ketone hydrochloride | 12.7 mmoles, 3.47 g | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=C(C=C2C=C1)Cl
reactant | sodium borohydride | 4 mmoles, 1.5 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | α-(6-chloro-2-naphthyl)-4-piperidinemethanol | ClC=1C=C2C=CC(=CC2=CC1)C(O)C1CCNCC1 | C16H18ClNO
